### PR TITLE
feat(BKLNW): prove `prop_3_sub_5`

### LINKED ISSUE #635: [BKLNW]: f(2^n) decreasing for n >= 9
## Description

Follows easily from previous sublemma.

## Blueprint

[Sublemma 9.3.6](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/secondary-chapter.html#bklnw-prop-3-sub-5)

## Zulip

TBD

### PR DESCRIPTION
**Pull request by arajasek**
Closes #635 

Closes #635

### CODE REVIEW

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 1]
```diff
@@ -183,7 +183,9 @@ theorem prop_3_sub_4 (n : ℕ) (hn : n ≥ 9) : u (n + 1) < u n := by sorry
   (proof := /-- This follows from Sublemmas \ref{bklnw-prop-3-sub-3} and \ref{bklnw-prop-3-sub-4}. -/)
   (latexEnv := "sublemma")
   (discussion := 635)]
-theorem prop_3_sub_5 (n : ℕ) (hn : n ≥ 9) : f (2^n) > f (2^(n + 1)) := by sorry
+theorem prop_3_sub_5 (n : ℕ) (hn : n ≥ 9) : f (2^n) > f (2^(n + 1)) := by
+  simp only [prop_3_sub_3, gt_iff_lt, add_lt_add_iff_left]
+  exact prop_3_sub_4 n hn
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/BKLNW.lean]: Feel free to simplify it as:

```suggestion
  simp [prop_3_sub_3, prop_3_sub_4 n hn]
```

**Comment by teorth** [comment]
Can you formally propose this PR over at #635 to keep the automated project issue tracker aligned?

**Comment by arajasek** [comment]
@teorth I think writing "Closes #635" in the PR description has the same effect (linking the PR and moving the issue to In Review). It looks like that triggered the appropriate automation, but I'm happy to explicitly "propose" it on the issue too if that has some additional effect.

EDIT: Looks like writing "propose" on the issue (when it was already linked by the PR description) had the effect of moving the issue back from "In Review" to "In Progress". That's probably not what we want.

**Review by teorth — APPROVED** [review]
